Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Syncope
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ with afib s/p BiV pacer/ICD, CHF EF 20%, aortic stenosis s/p 
AVR p/w syncope. Pt woke up feeling "unwell" yesterday morning 
but is unable to describe why and what was wrong. Yesterday 
afternoon around 3 pm, pt was sitting in chair and felt flushed, 
the family noted shaking arms and patient lost consciousness x 
30 seconds, no confusion after waking up. Pt doesn't remember 
events except for flushing. Felt a little better, went out for 
dinner around 4 pm, but around 10 pm he had another episode with 
very similar symptoms. Occured once again an hour later, so pt 
presented to ED. Pt has had syncope once before; was admitted 
for syncope at ___ after an unwitnessed fall on ___ pt had 
been using a hairdryer and doesn't remember what happened after 
that, but then found himself on the floor. This event was 
thought to be ___ hypotension. Prior to this he has not had 
syncope before. Pt notes that ICD has not fired in the past and 
not during events today. Denies fevers, chills, night sweats, 
nausea, vomiting, diarrhea, cough or other complaints. Denies 
any palpitations, dizziness, nausea, chest pain or other 
symptoms than flushing prior to each of his 3 syncopal events 
today. No recent medication changes.  
.  
Pt initially presented to ___ where reportedly pt had short 
episode of SVT to 170s, also noted to have several PVC on tele, 
K was 3.2 at ___. Trop at ___ 0.09. Transferred to ___ ED for 
further management and EP consult, pt is followed for his 
pacemaker/ICD here. Initial VS were 98.6 74 96/55 16 100% RA. 
EKG noted to have paced rhythm at 83 bpm and + PVCs. Pt given 
magnesium 2 gm IV, K 40 mg PO and IV. CXR with no acute process, 
mild pulmonary congestion, no infiltrate. BPs in ED noted to be 
systolics from 89-103/70s. Trop 0.01 in ED.  
.  
Currently, pt denies ay complaints, no dizziness, chest pain, 
shortness of breath or palpitations. Concerned that pacemaker is 
not working and that it may have contributed to syncope.  
.  
On review of systems, he denies any prior history of stroke, 
TIA, deep venous thrombosis, pulmonary embolism, bleeding at the 
time of surgery, myalgias, joint pains, cough, hemoptysis, black 
stools or red stools. he denies recent fevers, chills or rigors. 
he denies exertional buttock or calf pain. All of the other 
review of systems were negative.  
 
Past Medical History:
1. CARDIAC RISK FACTORS: -Diabetes, +Dyslipidemia, -Hypertension 
 
2. CARDIAC HISTORY: Cardiomyopathy, LVEF 20%,  
-CABG:  
-PERCUTANEOUS CORONARY INTERVENTIONS:  
-PACING/ICD: s/p BiV ICD ___  
3. OTHER PAST MEDICAL HISTORY:  
LBBB  
Aortic stenosis s/p tissue AVR in ___  
Atrial fibrillation s/p DC cardioversion in ___ with reversion  

back to AF in ___, last cardioversion ___ Rectal cancer s/p bowel resection and colostomy,  
chemotherapy and radiation  
___ Bowel obstruction at ___ possibly related to a hernia s/p  
surgical repair  
Blindness of left eye secondary to an injury at age ___  
Mildly hard of hearing  

 
Social History:
___
Family History:
mother and brother with afib. father with CAD and rheumatic 
fever, died at ___ yo. No family history of cardiomyopathies, or 
sudden cardiac death; otherwise non-contributory.  
 
Physical Exam:
ADMISSION PHYSICAL EXAM
VS: 97 100/74 71 18 100% RA  
GENERAL: WDWN M in NAD. Oriented x3. Mood, affect appropriate.  
HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were 
pink, no pallor or cyanosis of the oral mucosa. No xanthalesma.  

NECK: Supple with no JVD  
CARDIAC: RR, normal S1, S2. ___ systolic murmur at base, No 
thrills, lifts. No S3 or S4.  
LUNGS: CTAB, no crackles, wheezes or rhonchi.  
ABDOMEN: Soft, NTND. No HSM or tenderness, ostomy in place with 
brown stool  
EXTREMITIES: 1+ pedal edema.  
SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.  
PULSES:  
Right: DP 2+ ___ 2+  
Left: DP 2+ ___ 2+  

DISCHARGE PHYSICAL EXAMINATION:  
97.4  102/72 (SBP 93-126) 72  18  99%RA 
I/O Past 30 Hrs:
1310/1350
Wt: 57.5kg (admission wt 59.7kg) 
GENERAL: NAD. Oriented x3. Positive mood, affect appropriate.  
HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were 
pink, no pallor or cyanosis of the oral mucosa.
NECK: Supple with dynamic JVP 8-10cm H2O 
CARDIAC: regular rate, normal S1, S2. ___ systolic murmur heard 
throughout precordium, best in L sternal border and apex with 
radiation to axilla. No thrills, lifts. No S3 or S4.  
LUNGS: good air movement, CTAB
ABDOMEN: Soft, NTND. No HSM or tenderness, ostomy in place with 
brown stool  
EXTREMITIES: trace pedal edema bilaterally.  
SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.
 
Pertinent Results:
ADMISSION LABS: 
___ 01:20PM   CK-MB-4 cTropnT-<0.01
___ 01:20PM   CK(CPK)-49
___ 01:20PM   GLUCOSE-144* UREA N-27* CREAT-1.1 SODIUM-133 
POTASSIUM-4.2 CHLORIDE-96 TOTAL CO2-23 ANION GAP-18
___ 03:40AM   cTropnT-0.01
___ 03:40AM   WBC-6.3 RBC-4.45* HGB-11.5* HCT-36.9* MCV-83 
MCH-25.9* MCHC-31.2 RDW-17.4*

PERTINENT OTHER LABS: 
___ 06:40AM BLOOD WBC-8.3 RBC-5.03 Hgb-13.2* Hct-41.2 
MCV-82 MCH-26.3* MCHC-32.1 RDW-17.6* Plt ___
___ 06:40AM BLOOD ___ PTT-41.1* ___
___ 06:40AM BLOOD Glucose-114* UreaN-28* Creat-1.0 Na-132* 
K-4.0 Cl-91* HCO3-25 AnGap-20
___ 01:20PM BLOOD CK-MB-4 cTropnT-<0.01
___ 06:40AM BLOOD Calcium-9.0 Phos-4.0 Mg-2.0
___ 06:30AM BLOOD WBC-8.2 RBC-4.69 Hgb-12.2* Hct-38.6* 
MCV-82 MCH-25.9* MCHC-31.5 RDW-17.4* Plt ___
___ 06:30AM BLOOD ___ PTT-40.1* ___
___ 06:30AM BLOOD Glucose-98 UreaN-33* Creat-1.0 Na-134 
K-3.7 Cl-93* HCO3-29 AnGap-16
___ 06:30AM BLOOD Calcium-8.7 Phos-3.4 Mg-1.8
___ 06:30AM BLOOD Digoxin-1.1
___ 06:30AM BLOOD WBC-9.0 RBC-4.64 Hgb-12.0* Hct-38.9* 
MCV-84 MCH-25.9* MCHC-30.9* RDW-17.3* Plt ___
___ 06:30AM BLOOD ___ PTT-42.0* ___
___ 06:30AM BLOOD Glucose-91 UreaN-37* Creat-1.1 Na-132* 
K-4.2 Cl-92* HCO3-30 AnGap-14
___ 06:30AM BLOOD Calcium-8.7 Phos-3.9 Mg-2.1

URINE: 
___ 07:28AM URINE Color-Yellow Appear-Clear Sp ___
___ 07:28AM URINE Blood-NEG Nitrite-NEG Protein-TR 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-2* pH-5.0 Leuks-NEG
___ 07:28AM URINE RBC-0 WBC-1 Bacteri-NONE Yeast-NONE Epi-1
___ 07:28AM URINE CastHy-4*

                            **FINAL REPORT ___
   URINE CULTURE (Final ___:    NO GROWTH. 

STUDIES: 
EKG (___): Ventricular paced rhythm. Compared to the 
previous tracing of ___ no change. 
  
CXR (___): Portable frontal view of the chest demonstrates 
hyperexpanded lungs. Moderate cardiomegaly is noted with 
perihilar vascular congestion, progressed from prior. There is 
no pleural effusion or pneumothorax. Hilar and mediastinal 
silhouettes are unremarkable. Most superior sternotomy wire 
appears fractured. Biventricular pacemaker device is in place. 
IMPRESSION: 
Moderate cardiomegaly with perihilar vascular congestion, 
appears progressed from ___ exam. 

ECHO (___): 
The left atrium is mildly dilated. Left ventricular wall 
thicknesses are normal. The left ventricular cavity is severely 
dilated. There is severe global left ventricular hypokinesis 
(LVEF = 25 %). No masses or thrombi are seen in the left 
ventricle. Tissue Doppler imaging suggests an increased left 
ventricular filling pressure (PCWP>18mmHg). The right 
ventricular cavity is mildly dilated with focal hypokinesis of 
the apical free wall. The aortic root is mildly dilated at the 
sinus level. The ascending aorta is mildly dilated. The aortic 
valve leaflets (3) appear structurally normal with good leaflet 
excursion and no aortic stenosis or aortic regurgitation. 
Moderate (2+) mitral regurgitation is seen. The tricuspid valve 
leaflets are mildly thickened. Moderate [2+] tricuspid 
regurgitation is seen. There is moderate pulmonary artery 
systolic hypertension. There is no pericardial effusion. 
IMPRESSION: Marked left ventricular cavity dilation with severe 
global hypokinesis. Right ventricular free wall hypokinesis. 
Moderate mitral regurgitation. Pulmonary artery systolic 
hypertension. Dilated ascending aorta. 

CXR Portable (___): 
FINDINGS: Midline sternotomy wires are unchanged. The 
pacers/defibrillating improved projecting over the left chest 
with leads in the right ventricle.  The heart size is enlarged, 
similar to prior studies. The lungs demonstrate no 
consolidation, but mild interstitial edema. There is no large 
pleural effusion or pneumothorax. 
IMPRESSION: Stable cardiomegaly and interstitial edema 
compatible with 
continued heart failure. 
 
Brief Hospital Course:
==================
BRIEF HOSPITAL SUMMARY
==================
___ with pacemaker/defibrillator, with 3 witnessed episodes of 
syncope on day of admission.  Upon interrogation of his device, 
ICD was noted to have fired three times in past week, with a 
couple times on day of presentation for Vtach, likely at the 
times the patient syncopized.  The patient was loaded with 
amiodarone in house, and     
  
==================
ACTIVE ISSUES
==================
# Syncope: Pt not orthostatic, likely ___ to ventricular 
tachycardia / ICD firing per ICD interrogation (see below). No 
episodes throughout 3 days in house.  

# Ventricular tachycardia: Pacemaker/ICD interrogated on 
admission demonstrated pt has had 5 shocks in past two weeks, 
with ___ happening on day of syncopal events.  Syncopal events 
likely ___ ventricular tachycardia w/ electrical shock.  No 
further syncopal events while in house.    Initiated amiodarone 
200mg PO TID (for three weeks) this admission.  Recommend 
changing to 200mg qd after initial three week load period.  
Throughout hospitalization, held warfarin and digoxin 
considering potential interactions with the amiodarone.  With 
warfarin being held, INR increased from 3.0 to 3.6 to 3.4.  
Recommend holding warfarin until INR < 3.1, at which time would 
restart at dose of 2.5mg qd, and titrate closely to INR for goal 
INR ___ (for afib, also has aortic valve replacement but is 
porcine).  Throughout hospitalization, has had  frequent PVCs 
and short non-sustained VT episodes of ___ beats. Pt's 
electrolytes were low at OSH, kept K+ and Mg+ repleted 
throughout hospitalization and also observed the patient on 
continuous telemetry.  

# PUMP: per ___ report last EF 20%, with systolic hypokinesis.  
echo performed here ___ which showed "The left ventricular 
cavity is severely dilated. There is severe global left 
ventricular hypokinesis (LVEF = 25 %)...Tissue Doppler imaging 
suggests an increased left ventricular filling pressure 
(PCWP>18mmHg). The right ventricular cavity is mildly dilated 
with focal hypokinesis of the apical free wall. The aortic root 
is mildly dilated at the sinus level. The ascending aorta is 
mildly dilated. The aortic valve leaflets (3) appear 
structurally normal with good leaflet excursion and no aortic 
stenosis or aortic regurgitation. Moderate (2+) mitral 
regurgitation is seen. The tricuspid valve leaflets are mildly 
thickened. Moderate [2+] tricuspid regurgitation is seen. There 
is moderate pulmonary artery systolic hypertension."
Patient had 1+ peripheral edema, JVP 13cm H2O and hilar 
pulmonary edema upon admission.  Diuresed at 1mg BID bumex (was 
recently up-titrated to 2mg qd bumex at home), with a net 
negative balance of -3L over 3 days, and a net weight change of 
(-2.2kg).  Upon discharge, pedal edema was trace, some mild 
crackles L lung base and JVP was 8cm H2O. We continued pt's 
spironolactone and held dig while in house.  Pt was recently 
d/c'd from ___ for an admission of hypotension and orthostasis 
(thus our concern over being too aggressive with diuresis) off 
of ace-inhib and beta-blocker.  Thus we will continue off of 
these meds, despite his significant systolic heart failure. 
 

# Dyspnea: Pt has had tachypnea and dyspnea throughout 
hospitalization.  No white count, no fevers, no cough, unlikely 
to be PNA.  Saturations have been >93% on RA and pt has been 
supratherapeutic INR, unlikely to be PE.  This is most likely 
___ breathing pattern from severe, acute-on-chronic 
systolic heart failure, in addition to some compoenent of 
anxiety secondary to his syncopal, feeling palpitations and 
shocking episodes.  This usually happens later in the mornings 
and later in the evenings in a diurnal pattern.  The best way to 
abort this breathing pattern is to sit the patient up in bed, 
and to distract the patient or have the patient talk about 
something.  Deep breathing techniques also work.  The patient 
was given an incentive spirometer to prevent atelectasis and 
also ambulated BID-TID while in the hospital.  Pt also had a 
problem sleeping at night.  Held off on trazadone as pt has 
arrhythmias and ectopy.  Gave very small doses of ativan (0.25mg 
PO) qhs to help with his insomnia.  

# CORONARIES: no chest pain, no EKG changes c/w ischemia. 
Negative cardiac enzymes x2 here. Contionued atorvastatin and 
aspirin.  We continued the patient's atorvastatin and aspirin 
while in house. 
      
  
====================
INACTIVE ISSUES
====================
# anemia: per records from ___, baseline Hct low-mid ___, 36.5 
is near baseline, no signs of active bleeding, monitor Hct  

====================
Transitional Issues
====================
1. F/u INR closely --> would check INR daily and restart 
coumadin at 2.5mg qd once INR < 3.1.
2. Continue dose of 1mg Bumex BID (recently was switched to 2mg 
bumex qd by outpt cardiologist), with close following of 
electrolytes and creatinine.  
3. Continue amiodarone 200mg TID load for three-four weeks 
(until ___, and then transition to 200mg qd.
4. Close f/u with Drs. ___.
5. Continue to address goals of care with patient and family.  
Addressed code status with patient and family and they were 
comfortable with full code status, although this may not be the 
most appropriate. 
6. AT REHAB: Qd to QOD chem 10. Please replete Mg to 2.0 and K 
to 4.0.  Consider decreasing Bumex if Cr significantly 
increases. 
 
Medications on Admission:
Digoxin 0.125 mg p.o. daily  
Aspirin 81 mg p.o. daily  
spironolactone 25 mg p.o. daily  
cholecalciferol 1000 units p.o. daily  
multivitamin one a day  
Bumex 2 mg p.o. qd  
atorvastatin 10 mg p.o. daily  
warfarin 2.5 mg daily  
multivitamin  
ferrous sulfate 
 
Discharge Medications:
1. aspirin 81 mg Tablet, Chewable Sig: One (1) Tablet, Chewable 
PO DAILY (Daily).  
2. spironolactone 25 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
3. cholecalciferol (vitamin D3) 1,000 unit Capsule Sig: One (1) 
Capsule PO once a day.  
4. multivitamin     Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
5. atorvastatin 10 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
6. ferrous sulfate  Oral
7. docusate sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day).  
8. senna 8.6 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day) as needed for constipation.  
9. acetaminophen 325 mg Tablet Sig: Two (2) Tablet PO Q6H (every 
6 hours) as needed for pain.  
10. amiodarone 200 mg Tablet Sig: One (1) Tablet PO TID (3 times 
a day) for 3 weeks: Continue 200mg TID for three weeks (until 
___, then switch to 200mg once per day. Tablet(s) 
11. bumetanide 1 mg Tablet Sig: One (1) Tablet PO twice a day: 
hold for SBP < 90.  
12. warfarin 2.5 mg Tablet Sig: One (1) Tablet PO once a day: DO 
NOT GIVE UNTIL INR < 3.1. Would titrate warfarin to INR.  .  
13. lorazepam 0.5 mg Tablet Sig: 0.5 Tablet PO HS (at bedtime) 
as needed for insomnia: Please give 0.25 if having insomnia. .  
14. Outpatient Lab Work
Please check chem 10, including Cr on ___.  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
___ Diagnosis:
Primary Diagnoses: 
acute on chronic systolic congestive heart failure
ventricular tachycardia
syncope

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___, 

It was a pleasure taking care of you while you were in the 
hospital.  

You were admitted to the ___ 
for syncopal episodes. Your ICD device showed that these 
episodes were associated with a dangerous arrythmia called 
Ventricular Tachycardia. 
You were started on a medication called amiodarone to protect 
your heart from recurrent arrythmias. Your digoxin was stopped.  
You have very serious systolic heart failure, which was 
confirmed by an echocardiogram that we performed while you were 
in the hospital.  

It is imperative that you continue a low-sodium, heart healthy 
diet, which means less than two grams of sodium per day.      

Weigh yourself every morning, call MD if weight goes up more 
than 3 lbs.

You also had periods of time where you had a fast breathing 
rate.  This is secondary to your severe heart failure, and 
improves when you begin speaking with others or thinking about 
other topics.  This is called ___ breathing pattern.   
If you have an episode of this, you should sit up in bed, and 
start discussing a topic with someone in the room. We have 
worked this breathing up in depth, and there is likely not much 
else we can do beside the things we are currently doing to help 
this. 

Medication Changes:
START:
Amiodarone- 200mg tablet, take 1 tablet three times a day- this 
protects your heart from arrythmias through ___, then 
take 1 tablet once per day thereafter.

CHANGE bumetanide TO 1 mg Tablet Sig: One (1) Tablet PO twice a 
day: hold for SBP < 90.  

CHANGE warfarin TO 2.5 mg Tablet Sig: One (1) Tablet PO once a 
day: DO NOT GIVE UNTIL INR < 3.1. Would titrate warfarin to INR. 
.  

START lorazepam 0.5 mg Tablet Sig: 0.5 Tablet PO HS (at bedtime) 
as needed for insomnia: Please give 0.25 if having insomnia.  

STOP:Digoxin
 
Followup Instructions:
___